US07326791B2
rac.-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-chloro-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 2-chloro-4-{N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]aminocarbonyl}benzoic acid, TBTU, diisopropylethylamine, and pyrrolidine in tetrahydrofuran. Yield: 56%; Rf value: 0.49 (silica gel; dichloromethane/ethanol=9:1); C21H20Cl2N4O2 (431.32); mass spectrum: (M+H)+=433/433/435 (chlorine isotope).

reactant | 2-chloro-4-{N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]aminocarbonyl}benzoic acid | ClC1=C(C(=O)O)C=CC(=C1)C(=O)NC(C)C1=NC2=C(N1)C=CC(=C2)Cl | C17H13Cl2N3O3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | rac.-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-chloro-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 56% | ClC1=CC2=C(NC(=N2)C(C)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)Cl)=O)C=C1 | C21H20Cl2N4O2
